* Subcircuit SC_SN74LS670
.subckt SC_SN74LS670 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ ? net-_u1-pad9_ net-_u1-pad10_ ? net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ ? 
* c:\fossee2\esim\library\subcircuitlibrary\sc_sn74ls670\sc_sn74ls670.cir
.include 3_and.sub
.include 4_OR.sub
* u18  net-_u18-pad1_ net-_u12-pad3_ ? ? net-_u18-pad5_ ? d_dlatch
* u26  net-_u18-pad1_ net-_u22-pad3_ ? ? net-_u26-pad5_ ? d_dlatch
* u34  net-_u18-pad1_ net-_u30-pad3_ ? ? net-_u34-pad5_ ? d_dlatch
* u42  net-_u18-pad1_ net-_u38-pad3_ ? ? net-_u42-pad5_ ? d_dlatch
* u12  net-_u10-pad1_ net-_u10-pad2_ net-_u12-pad3_ d_and
* u22  net-_u10-pad1_ net-_u14-pad2_ net-_u22-pad3_ d_and
* u30  net-_u28-pad1_ net-_u10-pad2_ net-_u30-pad3_ d_and
* u38  net-_u28-pad1_ net-_u14-pad2_ net-_u38-pad3_ d_and
* u6  net-_u1-pad15_ net-_u18-pad1_ d_inverter
x19 net-_x11-pad4_ net-_x12-pad4_ net-_x19-pad3_ net-_x19-pad4_ net-_u51-pad1_ 4_OR
* u51  net-_u51-pad1_ net-_u51-pad2_ d_inverter
* u55  net-_u51-pad2_ net-_u48-pad2_ net-_u1-pad10_ d_and
* u19  net-_u19-pad1_ net-_u13-pad3_ ? ? net-_u19-pad5_ ? d_dlatch
* u27  net-_u19-pad1_ net-_u23-pad3_ ? ? net-_u27-pad5_ ? d_dlatch
* u35  net-_u19-pad1_ net-_u31-pad3_ ? ? net-_u35-pad5_ ? d_dlatch
* u43  net-_u19-pad1_ net-_u39-pad3_ ? ? net-_u43-pad5_ ? d_dlatch
* u13  net-_u10-pad1_ net-_u10-pad2_ net-_u13-pad3_ d_and
* u23  net-_u10-pad1_ net-_u14-pad2_ net-_u23-pad3_ d_and
* u31  net-_u28-pad1_ net-_u10-pad2_ net-_u31-pad3_ d_and
* u39  net-_u28-pad1_ net-_u14-pad2_ net-_u39-pad3_ d_and
* u4  net-_u1-pad1_ net-_u19-pad1_ d_inverter
x20 net-_x15-pad4_ net-_x16-pad4_ net-_x13-pad4_ net-_x14-pad4_ net-_u52-pad1_ 4_OR
* u52  net-_u52-pad1_ net-_u52-pad2_ d_inverter
* u56  net-_u52-pad2_ net-_u48-pad2_ net-_u1-pad9_ d_and
* u17  net-_u17-pad1_ net-_u11-pad3_ ? ? net-_u17-pad5_ ? d_dlatch
* u25  net-_u17-pad1_ net-_u21-pad3_ ? ? net-_u25-pad5_ ? d_dlatch
* u33  net-_u17-pad1_ net-_u29-pad3_ ? ? net-_u33-pad5_ ? d_dlatch
* u41  net-_u17-pad1_ net-_u37-pad3_ ? ? net-_u41-pad5_ ? d_dlatch
* u11  net-_u10-pad1_ net-_u10-pad2_ net-_u11-pad3_ d_and
* u21  net-_u10-pad1_ net-_u14-pad2_ net-_u21-pad3_ d_and
* u29  net-_u28-pad1_ net-_u10-pad2_ net-_u29-pad3_ d_and
* u37  net-_u28-pad1_ net-_u14-pad2_ net-_u37-pad3_ d_and
* u3  net-_u1-pad2_ net-_u17-pad1_ d_inverter
x18 net-_x18-pad1_ net-_x10-pad4_ net-_x18-pad3_ net-_x18-pad4_ net-_u50-pad1_ 4_OR
* u50  net-_u50-pad1_ net-_u50-pad2_ d_inverter
* u54  net-_u50-pad2_ net-_u48-pad2_ net-_u1-pad7_ d_and
* u16  net-_u16-pad1_ net-_u10-pad3_ ? ? net-_u16-pad5_ ? d_dlatch
* u24  net-_u16-pad1_ net-_u20-pad3_ ? ? net-_u24-pad5_ ? d_dlatch
* u32  net-_u16-pad1_ net-_u28-pad3_ ? ? net-_u32-pad5_ ? d_dlatch
* u40  net-_u16-pad1_ net-_u36-pad3_ ? ? net-_u40-pad5_ ? d_dlatch
* u10  net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ d_and
* u20  net-_u10-pad1_ net-_u14-pad2_ net-_u20-pad3_ d_and
* u28  net-_u28-pad1_ net-_u10-pad2_ net-_u28-pad3_ d_and
* u36  net-_u28-pad1_ net-_u14-pad2_ net-_u36-pad3_ d_and
* u2  net-_u1-pad3_ net-_u16-pad1_ d_inverter
x17 net-_x17-pad1_ net-_x17-pad2_ net-_x1-pad4_ net-_x17-pad4_ net-_u49-pad1_ 4_OR
* u49  net-_u49-pad1_ net-_u49-pad2_ d_inverter
* u53  net-_u49-pad2_ net-_u48-pad2_ net-_u1-pad6_ d_and
* u5  net-_u1-pad12_ net-_u5-pad2_ net-_u28-pad1_ d_nor
* u8  net-_u7-pad2_ net-_u5-pad2_ net-_u10-pad1_ d_and
* u7  net-_u1-pad12_ net-_u7-pad2_ d_inverter
* u9  net-_u1-pad13_ net-_u5-pad2_ d_inverter
* u14  net-_u10-pad2_ net-_u14-pad2_ d_inverter
* u15  net-_u1-pad14_ net-_u10-pad2_ d_inverter
* u46  net-_u46-pad1_ net-_u46-pad2_ net-_u46-pad3_ d_nor
* u47  net-_u46-pad1_ net-_u1-pad5_ net-_u46-pad2_ d_nor
* u48  net-_u46-pad1_ net-_u48-pad2_ d_inverter
* u44  net-_u44-pad1_ net-_u44-pad2_ d_inverter
* u45  net-_u1-pad4_ net-_u44-pad1_ d_inverter
x6 net-_u24-pad5_ net-_u44-pad1_ net-_u46-pad3_ net-_x17-pad2_ 3_and
x1 net-_u32-pad5_ net-_u44-pad2_ net-_u46-pad2_ net-_x1-pad4_ 3_and
x2 net-_u40-pad5_ net-_u44-pad2_ net-_u46-pad3_ net-_x17-pad4_ 3_and
x5 net-_u16-pad5_ net-_u44-pad1_ net-_u46-pad2_ net-_x17-pad1_ 3_and
x9 net-_u17-pad5_ net-_u44-pad1_ net-_u46-pad2_ net-_x18-pad1_ 3_and
x10 net-_u25-pad5_ net-_u44-pad1_ net-_u46-pad3_ net-_x10-pad4_ 3_and
x3 net-_u33-pad5_ net-_u44-pad2_ net-_u46-pad2_ net-_x18-pad3_ 3_and
x4 net-_u41-pad5_ net-_u44-pad2_ net-_u46-pad3_ net-_x18-pad4_ 3_and
x15 net-_u19-pad5_ net-_u44-pad1_ net-_u46-pad2_ net-_x15-pad4_ 3_and
x16 net-_u27-pad5_ net-_u44-pad1_ net-_u46-pad3_ net-_x16-pad4_ 3_and
x13 net-_u35-pad5_ net-_u44-pad2_ net-_u46-pad2_ net-_x13-pad4_ 3_and
x14 net-_u43-pad5_ net-_u44-pad2_ net-_u46-pad3_ net-_x14-pad4_ 3_and
x11 net-_u18-pad5_ net-_u44-pad1_ net-_u46-pad2_ net-_x11-pad4_ 3_and
x12 net-_u26-pad5_ net-_u44-pad1_ net-_u46-pad3_ net-_x12-pad4_ 3_and
x7 net-_u34-pad5_ net-_u44-pad2_ net-_u46-pad2_ net-_x19-pad3_ 3_and
x8 net-_u42-pad5_ net-_u44-pad2_ net-_u46-pad3_ net-_x19-pad4_ 3_and
a1 net-_u18-pad1_ net-_u12-pad3_ ? ? net-_u18-pad5_ ? u18
a2 net-_u18-pad1_ net-_u22-pad3_ ? ? net-_u26-pad5_ ? u26
a3 net-_u18-pad1_ net-_u30-pad3_ ? ? net-_u34-pad5_ ? u34
a4 net-_u18-pad1_ net-_u38-pad3_ ? ? net-_u42-pad5_ ? u42
a5 [net-_u10-pad1_ net-_u10-pad2_ ] net-_u12-pad3_ u12
a6 [net-_u10-pad1_ net-_u14-pad2_ ] net-_u22-pad3_ u22
a7 [net-_u28-pad1_ net-_u10-pad2_ ] net-_u30-pad3_ u30
a8 [net-_u28-pad1_ net-_u14-pad2_ ] net-_u38-pad3_ u38
a9 net-_u1-pad15_ net-_u18-pad1_ u6
a10 net-_u51-pad1_ net-_u51-pad2_ u51
a11 [net-_u51-pad2_ net-_u48-pad2_ ] net-_u1-pad10_ u55
a12 net-_u19-pad1_ net-_u13-pad3_ ? ? net-_u19-pad5_ ? u19
a13 net-_u19-pad1_ net-_u23-pad3_ ? ? net-_u27-pad5_ ? u27
a14 net-_u19-pad1_ net-_u31-pad3_ ? ? net-_u35-pad5_ ? u35
a15 net-_u19-pad1_ net-_u39-pad3_ ? ? net-_u43-pad5_ ? u43
a16 [net-_u10-pad1_ net-_u10-pad2_ ] net-_u13-pad3_ u13
a17 [net-_u10-pad1_ net-_u14-pad2_ ] net-_u23-pad3_ u23
a18 [net-_u28-pad1_ net-_u10-pad2_ ] net-_u31-pad3_ u31
a19 [net-_u28-pad1_ net-_u14-pad2_ ] net-_u39-pad3_ u39
a20 net-_u1-pad1_ net-_u19-pad1_ u4
a21 net-_u52-pad1_ net-_u52-pad2_ u52
a22 [net-_u52-pad2_ net-_u48-pad2_ ] net-_u1-pad9_ u56
a23 net-_u17-pad1_ net-_u11-pad3_ ? ? net-_u17-pad5_ ? u17
a24 net-_u17-pad1_ net-_u21-pad3_ ? ? net-_u25-pad5_ ? u25
a25 net-_u17-pad1_ net-_u29-pad3_ ? ? net-_u33-pad5_ ? u33
a26 net-_u17-pad1_ net-_u37-pad3_ ? ? net-_u41-pad5_ ? u41
a27 [net-_u10-pad1_ net-_u10-pad2_ ] net-_u11-pad3_ u11
a28 [net-_u10-pad1_ net-_u14-pad2_ ] net-_u21-pad3_ u21
a29 [net-_u28-pad1_ net-_u10-pad2_ ] net-_u29-pad3_ u29
a30 [net-_u28-pad1_ net-_u14-pad2_ ] net-_u37-pad3_ u37
a31 net-_u1-pad2_ net-_u17-pad1_ u3
a32 net-_u50-pad1_ net-_u50-pad2_ u50
a33 [net-_u50-pad2_ net-_u48-pad2_ ] net-_u1-pad7_ u54
a34 net-_u16-pad1_ net-_u10-pad3_ ? ? net-_u16-pad5_ ? u16
a35 net-_u16-pad1_ net-_u20-pad3_ ? ? net-_u24-pad5_ ? u24
a36 net-_u16-pad1_ net-_u28-pad3_ ? ? net-_u32-pad5_ ? u32
a37 net-_u16-pad1_ net-_u36-pad3_ ? ? net-_u40-pad5_ ? u40
a38 [net-_u10-pad1_ net-_u10-pad2_ ] net-_u10-pad3_ u10
a39 [net-_u10-pad1_ net-_u14-pad2_ ] net-_u20-pad3_ u20
a40 [net-_u28-pad1_ net-_u10-pad2_ ] net-_u28-pad3_ u28
a41 [net-_u28-pad1_ net-_u14-pad2_ ] net-_u36-pad3_ u36
a42 net-_u1-pad3_ net-_u16-pad1_ u2
a43 net-_u49-pad1_ net-_u49-pad2_ u49
a44 [net-_u49-pad2_ net-_u48-pad2_ ] net-_u1-pad6_ u53
a45 [net-_u1-pad12_ net-_u5-pad2_ ] net-_u28-pad1_ u5
a46 [net-_u7-pad2_ net-_u5-pad2_ ] net-_u10-pad1_ u8
a47 net-_u1-pad12_ net-_u7-pad2_ u7
a48 net-_u1-pad13_ net-_u5-pad2_ u9
a49 net-_u10-pad2_ net-_u14-pad2_ u14
a50 net-_u1-pad14_ net-_u10-pad2_ u15
a51 [net-_u46-pad1_ net-_u46-pad2_ ] net-_u46-pad3_ u46
a52 [net-_u46-pad1_ net-_u1-pad5_ ] net-_u46-pad2_ u47
a53 net-_u46-pad1_ net-_u48-pad2_ u48
a54 net-_u44-pad1_ net-_u44-pad2_ u44
a55 net-_u1-pad4_ net-_u44-pad1_ u45
* Schematic Name:                             d_dlatch, NgSpice Name: d_dlatch
.model u18 d_dlatch(data_delay=1.0e-9 enable_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0e-9 ic=0 data_load=1.0e-12 enable_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_dlatch, NgSpice Name: d_dlatch
.model u26 d_dlatch(data_delay=1.0e-9 enable_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0e-9 ic=0 data_load=1.0e-12 enable_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_dlatch, NgSpice Name: d_dlatch
.model u34 d_dlatch(data_delay=1.0e-9 enable_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0e-9 ic=0 data_load=1.0e-12 enable_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_dlatch, NgSpice Name: d_dlatch
.model u42 d_dlatch(data_delay=1.0e-9 enable_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0e-9 ic=0 data_load=1.0e-12 enable_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u12 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u22 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u30 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u38 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u6 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u51 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u55 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_dlatch, NgSpice Name: d_dlatch
.model u19 d_dlatch(data_delay=1.0e-9 enable_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0e-9 ic=0 data_load=1.0e-12 enable_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_dlatch, NgSpice Name: d_dlatch
.model u27 d_dlatch(data_delay=1.0e-9 enable_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0e-9 ic=0 data_load=1.0e-12 enable_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_dlatch, NgSpice Name: d_dlatch
.model u35 d_dlatch(data_delay=1.0e-9 enable_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0e-9 ic=0 data_load=1.0e-12 enable_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_dlatch, NgSpice Name: d_dlatch
.model u43 d_dlatch(data_delay=1.0e-9 enable_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0e-9 ic=0 data_load=1.0e-12 enable_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u13 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u23 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u31 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u39 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u4 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u52 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u56 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_dlatch, NgSpice Name: d_dlatch
.model u17 d_dlatch(data_delay=1.0e-9 enable_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0e-9 ic=0 data_load=1.0e-12 enable_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_dlatch, NgSpice Name: d_dlatch
.model u25 d_dlatch(data_delay=1.0e-9 enable_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0e-9 ic=0 data_load=1.0e-12 enable_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_dlatch, NgSpice Name: d_dlatch
.model u33 d_dlatch(data_delay=1.0e-9 enable_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0e-9 ic=0 data_load=1.0e-12 enable_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_dlatch, NgSpice Name: d_dlatch
.model u41 d_dlatch(data_delay=1.0e-9 enable_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0e-9 ic=0 data_load=1.0e-12 enable_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u11 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u21 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u29 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u37 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u3 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u50 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u54 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_dlatch, NgSpice Name: d_dlatch
.model u16 d_dlatch(data_delay=1.0e-9 enable_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0e-9 ic=0 data_load=1.0e-12 enable_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_dlatch, NgSpice Name: d_dlatch
.model u24 d_dlatch(data_delay=1.0e-9 enable_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0e-9 ic=0 data_load=1.0e-12 enable_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_dlatch, NgSpice Name: d_dlatch
.model u32 d_dlatch(data_delay=1.0e-9 enable_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0e-9 ic=0 data_load=1.0e-12 enable_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_dlatch, NgSpice Name: d_dlatch
.model u40 d_dlatch(data_delay=1.0e-9 enable_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0e-9 ic=0 data_load=1.0e-12 enable_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u10 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u20 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u28 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u36 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u49 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u53 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u5 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u8 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u7 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u9 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u14 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u15 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u46 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u47 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u48 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u44 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u45 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Control Statements

.ends SC_SN74LS670